US08802728B2
Add H2O (100 mg, 5.56 mmol) and TMSCl (361 mg, 3.34 mmol) to a solution of 2-dimethylaminomethyl-3-(3-methoxy-phenyl)-bicyclo[3.2.1]octan-3-ol (877 mg, 3.03 mmol) in 2-butanone (60 mL). Stir the mixture at ambient temperature for 12 hours. Concentrate the mixture under vacuum to give 2-dimethylaminomethyl-3-(3-methoxy-phenyl)-bicyclo[3.2.1]octan-3-ol hydrochloride as white solid (986 mg, Yield: 100%). 1H NMR (400 MHz, D2O) δ 7.23-7.27 (t, J=16.4, 1H), 7.00-7.02 (d, J=8.0, 1H), 6.95-6.96 (t, J=4.0, 1H), 6.78-6.80 (d, J=10.4, 1H), 3.71 (s, 3H), 3.05-3.19 (m, 1H), 2.52-2.58 (m, 4H), 2.14-2.26 (m, 4H), 2.09-2.14 (m, 2H), 2.05-2.06 (d, J=2.4, 1H), 1.89-1.92 (m, 1H), 1.78-1.80 (m, 1H), 1.51-1.68 (m, 4H), 1.40-1.52 (m, 1H).

reactant | H2O | 5.56 mmol, 100 mg | O | H2O
reactant | TMSCl | 3.34 mmol, 361 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-dimethylaminomethyl-3-(3-methoxy-phenyl)-bicyclo[3.2.1]octan-3-ol | 3.03 mmol, 877 mg | CN(C)CC1C2CCC(CC1(O)C1=CC(=CC=C1)OC)C2 | C18H27NO2
solvent | 2-butanone | 60 mL | CC(CC)=O | C4H8O
product | 2-dimethylaminomethyl-3-(3-methoxy-phenyl)-bicyclo[3.2.1]octan-3-ol hydrochloride | 986 mg, Yield: 100% | Cl.CN(C)CC1C2CCC(CC1(O)C1=CC(=CC=C1)OC)C2 | InChI=1S/C18H27NO2.ClH/c1-19(2)12-17-14-8-7-13(9-14)11-18(17,20)15-5-4-6-16(10-15)21-3;/h4-6,10,13-14,17,20H,7-9,11-12H2,1-3H3;1H
